US07125896B2
2-[(Aminocarbonyl)amino]-5-[2-(pyrrolidin-3-yloxy)phenyl]-3-thiophenecarboxamide
2-[(Aminocarbonyl)amino]-5-{2-[(1-tert-butyloxycarbonylpyrrolidin-3-yl)oxy]phenyl}-3-thiophenecarboxamide (200 mg) was suspended in dichloromethane (30 ml) and trifluoroacetic acid (5 ml) was added. The mixture was stirred for 1 h, followed by concentration in vacuo. The product was treated with 38% aqueous ammonia and then isolated by filtration as a brown powder (98 mg).

reactant | 2-[(Aminocarbonyl)amino]-5-{2-[(1-tert-butyloxycarbonylpyrrolidin-3-yl)oxy]phenyl}-3-thiophenecarboxamide | 200 mg | NC(=O)NC=1SC(=CC1C(=O)N)C1=C(C=CC=C1)OC1CN(CC1)C(=O)OC(C)(C)C | C21H26N4O5S
reactant | trifluoroacetic acid | 5 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
product | 2-[(Aminocarbonyl)amino]-5-[2-(pyrrolidin-3-yloxy)phenyl]-3-thiophenecarboxamide | 98 mg | NC(=O)NC=1SC(=CC1C(=O)N)C1=C(C=CC=C1)OC1CNCC1 | C16H18N4O3S
